US06518257B1
(ii) Production of 3′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methyl-1-propyl][1,1′-biphenyl]-4-carbonitrile
By the reaction in the same manner as in Example 4-(iii) using 3′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propyl][1,1′-biphenyl]-4-carbonitrile (590 mg) and pyridine hydrochloride (111 mg), the title compound (261 mg) was obtained as colorless needle crystals.

reactant | 3′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propyl][1,1′-biphenyl]-4-carbonitrile | 590 mg | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C#N | C39H33N3O
reactant | pyridine hydrochloride | 111 mg | Cl.N1=CC=CC=C1
product | 3′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methyl-1-propyl][1,1′-biphenyl]-4-carbonitrile | 261 mg | OC(C(C)C)(C=1N=CNC1)C=1C=C(C=CC1)C1=CC=C(C=C1)C#N | C20H19N3O
